US07601742B2
7.8 Preparation of 3-[4-(3-cyclopentyloxy-4-cyclopropylmethoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide according to General Procedure IV
To a dry round bottom flask was added 3-[4-(3-cyclopentyloxy-4-cyclopropylmethoxy-phenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile (1 mmol) in 10 mL EtOH. This mixture was then heated, and 50 μL of 25% NaOH solution followed by 0.5 mL 30% H2O2 was added to the solution. The mixture was stirred at 45 to 50° C. for 4 h, cooled to r.t., and concentrated under reduced pressure. The residue was dissolved in EtOAc (or CH3Cl), washed with saturated NH4Cl, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to give pure product. Yield: 87%.

reactant | 3-[4-(3-cyclopentyloxy-4-cyclopropylmethoxy-phenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile | 1 mmol | C1(CCCC1)OC=1C=C(C=CC1OCC1CC1)C1CC(N(C1)C=1C=C(C#N)C=CC1)=O | C26H28N2O3
reactant | NaOH | 50 μL | [OH-].[Na+]
reactant | H2O2 | 0.5 mL | OO | H2O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-[4-(3-cyclopentyloxy-4-cyclopropylmethoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide | Yield: 87% | C1(CCCC1)OC=1C=C(C=CC1OCC1CC1)C1CC(N(C1)C=1C=C(C(=O)N)C=CC1)=O | C26H30N2O4
